US08426437B2
8-(4-Methyl-piperazine-1-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid is prepared according to synthesis 25, from 440 mg (0.75 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 164 μl (1.48 mmol) of 1-methyl-piperazine to give, after washing with water, 340 mg (65%) of 8-(4-methyl-piperazine-1-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.75 mmol, 440 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 1-methyl-piperazine | 1.48 mmol, 164 μl | CN1CCNCC1 | C5H12N2
product | 8-(4-Methyl-piperazine-1-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | CN1CCN(CC1)S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C17H18N4O5S
